US05985872
To a suspension of CDI (49.35 g, 305 mmol) in 100 mL of dioxane was added at room temperature a solution of the anthanilic acid (20 g, 132 mmol) in 100 mL of dioxane over 30 minutes. The reaction was stirred at ambient temperature until the mild exotherm subsided. The reaction mixture was filtered through a bed of silica gel (dioxane), concentrated then diluted with about 200 mL of water. The resulting precipitate was filtered, washed with water and dried affording 20.3 g (87%) of 5-methyl-2H-3,1-benzoxazin-2,4(1H)-dione.

reactant | CDI | 305 mmol, 49.35 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | anthanilic acid | 132 mmol, 20 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | dioxane | 100 mL | O1CCOCC1 | C4H8O2
reactant | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 5-methyl-2H-3,1-benzoxazin-2,4(1H)-dione | 20.3 g, 87% | CC1=CC=CC2=C1C(OC(N2)=O)=O | C9H7NO3
